US08110585B2
1-[(1R,2R)-2-(5-fluoro-2-methyl-2H-indazol-4-yl)cyclopropyl]methanamine dihydrochloride
To a solution of tert-butyl {[(1R,2R)-2-(5-fluoro-2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}carbamate (343 mg, 1.07 mmol) in methanol (1 mL) was added hydrochloric acid-methanol reagent (manufactured by TCI, 3 mL) solution, and the mixture was stirred at room temperature for 14 hr. The solvent was concentrated under reduced pressure and the obtained crystals were washed with ethyl acetate to give the title compound (246 mg, yield 79%).

reactant | tert-butyl {[(1R,2R)-2-(5-fluoro-2-methyl-2H-indazol-4-yl)cyclopropyl]methyl}carbamate | 1.07 mmol, 343 mg | FC1=C(C2=CN(N=C2C=C1)C)[C@H]1[C@@H](C1)CNC(OC(C)(C)C)=O | C17H22FN3O2
reactant | hydrochloric acid methanol | 3 mL | Cl.CO
solvent | methanol | 1 mL | CO | CH4O
product | 1-[(1R,2R)-2-(5-fluoro-2-methyl-2H-indazol-4-yl)cyclopropyl]methanamine dihydrochloride | 246 mg, yield 79% | Cl.Cl.FC1=C(C2=CN(N=C2C=C1)C)[C@H]1[C@@H](C1)CN | InChI=1S/C12H14FN3.2ClH/c1-16-6-9-11(15-16)3-2-10(13)12(9)8-4-7(8)5-14;;/h2-3,6-8H,4-5,14H2,1H3;2*1H/t7-,8+;;/m0../s1
